US07384963B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-[4-(p-toluenesulphonamido)phenyl]-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-(p-toluenesulphonamido)aniline using method I. NMR; δH [2H6]—DMSO 10.26,(1H, s), 10.08,(1H, b), 8.01,(2H, d), 7.90,(1H, dd), 7.77,(1H, d), 7.63,(4H, m), 7.56,(3H, m), 7.33,(2H, d), 7.06,(2H, d), 2.56,(3H, s), 2.33-2.32,(6H, m). LCMS; retention time 3.52 min, MH+ 539.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-(p-toluenesulphonamido)aniline | C1(=CC=C(C=C1)S(=O)(=O)NC1=CC=C(N)C=C1)C | C13H14N2O2S
product | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-[4-(p-toluenesulphonamido)phenyl]-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C30H26N4O4S
